US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-butoxy-ethyl) ester hydrochloride salt
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2-butoxyethanol accord-ing to the procedure of Example 1 as a colorless oil; 1H NMR (300 MHz, CDCl3): δ 0.78-0.93 (m, 6H), 1.15-1.78 (m, 12H), 2.70-3.62 (brm, 5H), 3.31-3.47 (m, 4H), 3.57-3.73 (m, 4H), 4.29-4.53 (m, 4H), 5.47-5.57 (brs, 1H), 6.70-6.95 (m, 3H), 7.20-7.49 (m, 4H); MS (ES) m/z (relative intensity): 622 (M+ -HCl, 20), 214 (10), 158 (10).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2-butoxyethanol | C(CCC)OCCO | C6H14O2
reactant | HCl | Cl | ClH
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-butoxy-ethyl) ester hydrochloride salt | Cl.C(CCC)OCCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCOCCCC | InChI=1S/C32H44ClNO9.ClH/c1-4-6-13-38-15-17-40-30(36)32(31(37)41-18-16-39-14-7-5-2)42-28-12-11-24(20-29(28)43-32)19-23(3)34-22-27(35)25-9-8-10-26(33)21-25;/h8-12,20-21,23,27,34-35H,4-7,13-19,22H2,1-3H3;1H
